US07897601B2
Triflic anhydride (0.23 mL, 1.4 mmol) was added to a mixture of 3-(4-chloro-phenyl)-but-3-en-2-one (189 mg, 1.04 mmol) and 2,6-di-t-butyl-4-methylpyridine (0.32 g, 1.6 mmol) in CH2Cl2 (10 mL) and refluxed for 16 h. After cooling to room temperature, the solution washed with 10% HCl solution and saturated NH4Cl aqueous solution, dried (MgSO4), concentrated, and chromatographed (SiO2, hexanes) to give trifluoro-methanesulfonic acid 2-(4-chloro-phenyl)-1-methylene-allyl ester as a clear oil (136 mg, 41%).

reactant | Triflic anhydride | 1.4 mmol, 0.23 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 3-(4-chloro-phenyl)-but-3-en-2-one | 1.04 mmol, 189 mg | ClC1=CC=C(C=C1)C(C(C)=O)=C | C10H9ClO
reactant | 2,6-di-t-butyl-4-methylpyridine | 1.6 mmol, 0.32 g | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | trifluoro-methanesulfonic acid 2-(4-chloro-phenyl)-1-methylene-allyl ester | 136 mg, 41% | ClC1=CC=C(C=C1)C(C(=C)OS(=O)(=O)C(F)(F)F)=C | C11H8ClF3O3S
